US07018988B2
(2S,4EZ)-N-(1,3-benzodioxol-5-ylmethyl)-1-([1,1′-biphenyl]-4-ylcarbonyl)-4-(methoxyimino)-2-pyrrolidinecarboxamide
Following the general method as outlined in Example 22, starting from (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(methoxyimino)-2-pyrrolidinecarboxylic acid, [1,1′-biphenyl]4-carbonyl chloride, and 1,3-benzodioxol-5-ylmethylamine the title compound was obtained in 64% purity by LC/MS. MS(ESI+): m/z=472.4.

reactant | (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(methoxyimino)-2-pyrrolidinecarboxylic acid | C(C)(C)(C)OC(=O)N1[C@@H](CC(C1)=NOC)C(=O)O | C11H18N2O5
reactant | [1,1′-biphenyl]4-carbonyl chloride | C1(=CC=C(C=C1)C(=O)Cl)C1=CC=CC=C1 | C13H9ClO
reactant | 1,3-benzodioxol-5-ylmethylamine | O1COC2=C1C=CC(=C2)CN | C8H9NO2
product | (2S,4EZ)-N-(1,3-benzodioxol-5-ylmethyl)-1-([1,1′-biphenyl]-4-ylcarbonyl)-4-(methoxyimino)-2-pyrrolidinecarboxamide | O1COC2=C1C=CC(=C2)CNC(=O)[C@H]2N(CC(C2)=NOC)C(=O)C2=CC=C(C=C2)C2=CC=CC=C2 | C27H25N3O5
